US07342118B2
2-Methyl-2-(4-nitro-imidazol-1-yl)-propionic acid methyl ester
4-nitroimidazole was alkylated with 2-Bromo-2-methyl-propionic acid methyl ester to provide the title compound: 1H NMR (400 MHz, CDCl3) 1.89 (s, 6H), 3.78 (s, 3H), 7.59 (d, 1H, J=1.7 Hz), 7.89 (s, 1H, J=1.7 Hz); MS 214.1 m/z (M+1).

reactant | 4-nitroimidazole | [N+](=O)([O-])C=1N=CNC1 | C3H3N3O2
reactant | 2-Bromo-2-methyl-propionic acid methyl ester | COC(C(C)(C)Br)=O | C5H9BrO2
product | 2-Methyl-2-(4-nitro-imidazol-1-yl)-propionic acid methyl ester | COC(C(C)(N1C=NC(=C1)[N+](=O)[O-])C)=O | C8H11N3O4
